US04045209
A mixture of 20 ml of methylsulfenyl chloride and 200ml of ethyl ether was added slowly while keeping the temperature below -30° C. to a solution of 40 g of N-methyl-N'-(3,4-dichlorophenyl)-urea in 500 ml of pyridine and the mixture was stirred for 1 hour at -30° C. After letting the temperature rise to 5° C., the mixture was stirred for 17 hours and the mixture was poured into a mixture of ice and water. The mixture was extracted with methylene chloride and the methylene chloride extract was washed with water and dried. The volatile fractions were removed by distillation under reduced pressure and the residue was crystallized from isopropyl ether to obtain 29.4 g of N-methyl-N-methylthio-N'-(3,4-dichlorophenyl)-urea melting at 93° C. A microanalytical sample was obtained by chromatography over silica gel and elution with a 9-1 benzene-ethyl acetate mixture.

reactant | methylsulfenyl chloride | 20 ml | CSCl | CH3ClS
reactant | ethyl ether | 200ml | C(C)OCC | C4H10O
reactant | N-methyl-N'-(3,4-dichlorophenyl)-urea | 40 g | CNC(=O)NC1=CC(=C(C=C1)Cl)Cl | C8H8Cl2N2O
reactant | water | O | H2O
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | N-methyl-N-methylthio-N'-(3,4-dichlorophenyl)-urea | 29.4 g | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)SC | C9H10Cl2N2OS
